.subckt multiplicand_src out<0> out<1> out<2> out<3> out<4> out<5> out<6> out<7>
vpat<0> out<0> 0 PAT 'vdd_val' 0 0 0 0 'period' b01 RB=1 R=0
vpat<1> out<1> 0 PAT 'vdd_val' 0 0 0 0 'period' b00 RB=1 R=0
vpat<2> out<2> 0 PAT 'vdd_val' 0 0 0 0 'period' b10 RB=1 R=0
vpat<3> out<3> 0 PAT 'vdd_val' 0 0 0 0 'period' b01 RB=1 R=0
vpat<4> out<4> 0 PAT 'vdd_val' 0 0 0 0 'period' b00 RB=1 R=0
vpat<5> out<5> 0 PAT 'vdd_val' 0 0 0 0 'period' b10 RB=1 R=0
vpat<6> out<6> 0 PAT 'vdd_val' 0 0 0 0 'period' b10 RB=1 R=0
vpat<7> out<7> 0 PAT 'vdd_val' 0 0 0 0 'period' b11 RB=1 R=0
.ends multiplicand_src
